US07893046B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (124 mg) was reacted with N-(4-iodophenyl)-N-((pyridin-2-yl)methyl)pyrimidin-2-amine (159 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(pyridin-2-ylmethyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (208 mg). Column chromatography (silica gel, eluent: cyclohexane/ethyl acetate=1/1→1/2) was used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 124 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | N-(4-iodophenyl)-N-((pyridin-2-yl)methyl)pyrimidin-2-amine | 159 mg | IC1=CC=C(C=C1)N(C1=NC=CC=N1)CC1=NC=CC=C1 | C16H13IN4
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(pyridin-2-ylmethyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester | 208 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(C1=NC=CC=N1)CC1=NC=CC=C1)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C29H25Cl2N5O3
